US07772221B2
Step AS (2). To a solution of methyl 2-allyloxy-5-methoxybenzoate (12 g, 55 mmol) in 100 mL anhydrous THF was added slowly 55 mL of a 1.0 M solution of lithium aluminum hydride (55 mmol) in THF at −50° C. The resulting solution was stirred at −50° C. for 1.5 h. EtOAc (100 mL) was added, followed by addition of 30 mL of aqueous ammonium chloride. The organic layer was filtered, washed with aqueous ammonium chloride and brine, then dried over magnesium sulfate. After concentration, 2-allyloxy-5-methoxybenzyl alcohol was obtained as a colorless oil (10.5 g, 100%), which was used directly for the next reaction without purification. LC-MS (M+H)+=195; 1H NMR (400 MHz, CDCl3) δ ppm 3.75 (s, 3H) 4.46-4.55 (m, 2H) 4.66 (s, 2H) 5.21-5.29 (m, 1H) 5.34-5.42 (m, 1H) 5.95-6.09 (m, 1H) 6.74 (dd, J=9.05, 3.02 Hz, 1H) 6.78 (d, J=9.05 Hz, 1H) 6.88 (d, J=3.02 Hz, 1H).

reactant | methyl 2-allyloxy-5-methoxybenzoate | 55 mmol, 12 g | C(C=C)OC1=C(C(=O)OC)C=C(C=C1)OC | C12H14O4
reactant | lithium aluminum hydride | 55 mmol | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
reactant | ammonium chloride | 30 mL | [Cl-].[NH4+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 2-allyloxy-5-methoxybenzyl alcohol | C(C=C)OC1=C(CO)C=C(C=C1)OC | C11H14O3
